US06867198B2
3-(3,4-Dihydro-5-thia-2a-aza-acenaphthylen-1-yl)-4-(1H-indol-3-yl)-pyrrole-2,5-dione
Beginning with (3,4-dihydro-5-thia-2a-aza-acenaphthylen-1-yl)oxoacetic acid methyl ester and (indol-3-yl)acetamide, the title compound was prepared essentially as described in Example 1.

reactant | (3,4-dihydro-5-thia-2a-aza-acenaphthylen-1-yl)oxoacetic acid methyl ester | COC(C(=O)C1=CN2CCSC3=CC=CC1=C23)=O | C13H11NO3S
reactant | (indol-3-yl)acetamide | N1C=C(C2=CC=CC=C12)CC(=O)N | C10H10N2O
product | 3-(3,4-Dihydro-5-thia-2a-aza-acenaphthylen-1-yl)-4-(1H-indol-3-yl)-pyrrole-2,5-dione | C1(=CN2CCSC3=CC=CC1=C23)C=2C(NC(C2C2=CNC3=CC=CC=C23)=O)=O | C22H15N3O2S
